US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenoxy)benzoyl]-4-methoxyaniline
p-Methoxyaniline (0.056 g, 0.457 mmol), triethylamine (0.046 g, 0.457 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.077 g, 0.457 mmol) were added to a methylene chloride solution (10 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenoxy)benzoic acid (0.100 g, 0.228 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=2:3) to obtain the titled compound (0.058 g, 0.107 mmol, 47%).

reactant | p-Methoxyaniline | 0.457 mmol, 0.056 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 0.457 mmol, 0.046 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.457 mmol, 0.077 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenoxy)benzoic acid | 0.228 mmol, 0.100 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC1=CC(=CC=C1)OC)C)=O | C24H22O8
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenoxy)benzoyl]-4-methoxyaniline | 0.107 mmol, 0.058 g, 47% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C1)OC1=CC(=CC=C1)OC)C)=O | C31H29NO8
